### PR TITLE
feat: between two surreals of the same birthday is a surreal of lower birthday

### PR DESCRIPTION
**Pull request by plp127**
Prove the theorem that if `x` and `y` are surreals with the same birthday then `!{{x} | {y}}` has lower birthday.

### CODE REVIEW

File: CombinatorialGames/Surreal/Basic.lean [hunk 1]
```diff
@@ -105,6 +105,20 @@ theorem Fits.equiv_of_forall_birthday_le {x y : IGame} [Numeric x] (hx : x.Fits
   hx.equiv_of_forall_not_fits
     fun _ z hz h ↦ (birthday_lt_of_mem_moves hz).not_ge <| H z (.of_mem_moves hz) h
 
+/--
+If `x` is a numeric game fitting within `y`, then `y` is equivalent to some subposition of `x`.
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Basic.lean:109]: This is a really nice result, and I wasn't aware of it!

File: CombinatorialGames/Surreal/Basic.lean [hunk 2]
```diff
@@ -105,6 +105,20 @@ theorem Fits.equiv_of_forall_birthday_le {x y : IGame} [Numeric x] (hx : x.Fits
...
+-/
+theorem Fits.exists_wsubposition_equiv {x y : IGame} [Numeric x] (hx : x.Fits y) :
+    ∃ z, WSubposition z x ∧ z ≈ y := by
+  induction x using moveRecOn generalizing ‹Numeric x› with | ind x ih
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Basic.lean:113]: I would prefer to just give a name to the instance variable, but that's up to you.

File: CombinatorialGames/Surreal/Basic.lean [hunk 3]
```diff
@@ -105,6 +105,20 @@ theorem Fits.equiv_of_forall_birthday_le {x y : IGame} [Numeric x] (hx : x.Fits
...
+  by_cases hm : ∀ p, ∀ z ∈ x.moves p, ¬z.Fits y
+  · exact ⟨x, .rfl, hx.equiv_of_forall_not_fits hm⟩
+  simp_rw [not_forall, not_not] at hm
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Basic.lean]:
```suggestion
  by_cases! hm : ∀ p, ∀ z ∈ x.moves p, ¬z.Fits y
  · exact ⟨x, .rfl, hx.equiv_of_forall_not_fits hm⟩
```

File: CombinatorialGames/Surreal/Birthday/Basic.lean [hunk 4]
```diff
@@ -119,6 +123,56 @@ theorem birthday_ofSets_le {s t : Set Surreal.{u}}
...
+    birthday !{{x} | {y}} < o := by
+  obtain ⟨x, nx, rfl, hxb⟩ := birthday_eq_iGameBirthday x
+  obtain ⟨y, ny, rfl, hyb⟩ := birthday_eq_iGameBirthday y
+  have nxy : !{{x} | {y}}.Numeric := by rw [numeric_def]; aesop
+  have mxy : mk !{{x} | {y}} = !{{mk x} | {mk y}} := by simp [mk_ofSets]
+  by_contra hbxy
+  apply hxy.ne
+  rw [mk_eq_mk]
+  apply Fits.antisymm
+  · constructor
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Basic.lean:133]: You can merge `constructor` and `intro` into `refine`, but that's a matter of style, really.

**Review by vihdzp — APPROVED** [review]
Wasn't able to golf this. Really nice proof!
